US05128361
a) 2-(3-Chloro-2-methylph-enyl-thiomethyl)-2-imidazoline hydrochloride (56)
5.55 g (35 mmol) of 3-chloro-2-methyl-thiophenol, 5.43 g (35 mmol) of 2-chloromethyl-2-imidazoline hydrochloride and 5 g of potassium carbonate are stirred in 40 ml of ethanol at room temperature. After 25 h, the mixture is filtered and the filtrate is concentrated to dryness. The crude product is purified by column chromatography on silica gel. After the eluting agent has been stripped off, ethanolic hydrochloric acid is added to the residue and the product is precipitated by addition of ether. White crystals of melting point 208°-209° C. are obtained.

reactant | 3-chloro-2-methyl-thiophenol | 35 mmol, 5.55 g | ClC=1C(=C(C=CC1)S)C | C7H7ClS
reactant | 2-chloromethyl-2-imidazoline hydrochloride | 35 mmol, 5.43 g | Cl.ClCC=1NCCN1
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-(3-Chloro-2-methylph-enyl-thiomethyl)-2-imidazoline hydrochloride | Cl.ClC=1C(=C(C=CC1)SCC=1NCCN1)C | InChI=1S/C11H13ClN2S.ClH/c1-8-9(12)3-2-4-10(8)15-7-11-13-5-6-14-11;/h2-4H,5-7H2,1H3,(H,13,14);1H
